US07238716B2
To a mixture of methyl 2-[3-[5-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]-3-pyridylmethoxy]phenyl]acetate (1.35 g), tetrahydrofuran (6 mL) and methanol (6 mL) was added a 1N aqueous sodium hydroxide solution (6 mL) and the mixture was stirred at room temperature for 3 hrs. The reaction mixture was concentrated, and water and dilute hydrochloric acid were added to acidify the residue. The precipitated solid was collected by filtration to give crystals (1.25 g, 95%) of 2-[3-[5-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]-3-pyridylmethoxy]phenyl]acetic acid. Recrystallization from acetone-hexane gave colorless prism crystals. melting point: 143-144° C.

reactant | methyl 2-[3-[5-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]-3-pyridylmethoxy]phenyl]acetate | 1.35 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(C=NC1)COC=1C=C(C=CC1)CC(=O)OC | C26H24N2O5
reactant | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 6 mL | [OH-].[Na+]
solvent | methanol | 6 mL | CO | CH4O
product | 2-[3-[5-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]-3-pyridylmethoxy]phenyl]acetic acid | 1.25 g, 95% | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(C=NC1)COC=1C=C(C=CC1)CC(=O)O | C25H22N2O5
